data/oMe_Silver.jsonl
{"reaction_id": "NR-074_1-C_2-CCCC(C)C_3-C(F)(F)F_4-C","name": "Fries Rearrangement","level": "medium","reactants_smiles": ["c1(OC(=O)C)c(C)c(CCCC(C)C)cc(C(F)(F)F)c1"],"products_smiles": ["C(=O)(C)c1c(O)c(C)c(CCCC(C)C)cc1C(F)(F)F"],"conditions": "AlCl3","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "c1(OC(=[O+][Al-](Cl)(Cl)Cl)C)c(C)c(CCCC(C)C)cc(C(F)(F)F)c1","rationale": "AlCl3, a strong Lewis acid, coordinates to the ester carbonyl oxygen, withdrawing electron density and enhancing the carbonyl carbon's electrophilicity for subsequent bond cleavage."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "[O+]#CC.c1(O[Al-](Cl)(Cl)Cl)c(C)c(CCCC(C)C)cc(C(F)(F)F)c1","rationale": "Heterolytic cleavage occurs as the polarized C–O bond breaks, favored by the stability of the acylium ion through resonance and the strong Al–O bond formation."},{"step": 3,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(=O)(C)C1=C(O[Al-](Cl)(Cl)Cl)C(C)=C(CCCC(C)C)C=C1(C(F)(F)F)","rationale": "The acylium ion acts as a potent electrophile, undergoing electrophilic aromatic substitution at an activated ring position, driven by aromatic π-electron donation to stabilize the σ-complex."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C)c1c(O[Al](Cl)Cl)c(C)c(CCCC(C)C)cc1C(F)(F)F","rationale": "Proton transfer from the σ-complex oxygen to the Al-bound oxygen restores aromaticity, facilitated by the Lewis acidic Al center stabilizing the alkoxide."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C)c1c(O)c(C)c(CCCC(C)C)cc1C(F)(F)F","rationale": "Final proton transfer liberates the free phenolic OH, driven by the thermodynamic stability of the neutral product and release of AlCl3 for catalyst turnover."}],"description": "In the Fries rearrangement, AlCl3 coordinates to the ester carbonyl, increasing electrophilicity and promoting cleavage to generate an acylium ion. This electrophile undergoes intramolecular electrophilic aromatic substitution, followed by sequential proton transfers to restore aromaticity and yield the hydroxyaryl ketone."}
{"reaction_id": "NR-103_1-Cl_2-c2ccc(C)cc2_3-C#CC(C)(C)C_4-c2ncccc2_5-S(=O)C","level": "medium","name": "Hass-Bender Oxidation","reactants_smiles": ["BrCc1c(Cl)c(c2ccc(C)cc2)c(C#CC(C)(C)C)c(c2ncccc2)c1S(=O)C","CC(C)[N+](=O)[O-]","[Na+].[O-]CC"],"products_smiles": ["O=Cc1c(Cl)c(c2ccc(C)cc2)c(C#CC(C)(C)C)c(c2ncccc2)c1S(=O)C"],"conditions": "","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC(C)=[N+]([O-])[O-]","step_weight": 0,"rationale": "The α-proton of the nitroalkane is acidic due to resonance stabilization of the resulting nitronate anion by the electron-withdrawing nitro group, allowing base-induced deprotonation."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[N+]([O-])(=C(C)C)OCc1c(Cl)c(c2ccc(C)cc2)c(C#CC(C)(C)C)c(c2ncccc2)c1S(=O)C","step_weight": 0,"rationale": "The nitronate anion acts as a strong nucleophile, attacking the benzylic carbon where the bromide is a good leaving group, aided by benzylic resonance stabilization of the transition state."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=Cc1c(Cl)c(c2ccc(C)cc2)c(C#CC(C)(C)C)c(c2ncccc2)c1S(=O)C","step_weight": 0,"rationale": "Elimination of the nitro group occurs because the benzylic position can stabilize the developing carbonyl through conjugation with the aromatic ring, making aldehyde formation thermodynamically favorable."}],"description": "In the Hass-Bender oxidation, the nitroalkane is deprotonated to form a nitronate anion, which then displaces the benzylic bromide via nucleophilic substitution. Subsequent elimination of the nitro group yields the aldehyde, driven by resonance stabilization of the aromatic carbonyl product."}
